US07605259B2
Step 1: 2-(4-Chloro-but-2-enyl)-isoindole-1,3-dione
Trans-1,4-dichloro-2-butene (1.14 ml, 10.8 mmol) was dissolved in DMF (27 ml) and purged with argon. Potassium pthalamide (1.00 g, 5.40 mmol) was added to the solution and the reaction was allowed to stir at room temperature overnight. The reaction was then poured into water (75 ml), which precipitated a white solid. This solid was collected by filtration and purified using silica gel chromatography (3:1 Hex: EtOAc) to afford a 76% yield (961 mg) of a white solid.

reactant | Trans-1,4-dichloro-2-butene | 10.8 mmol, 1.14 ml | ClC\C=C\CCl | C4H6Cl2
reactant | Potassium pthalamide | 5.40 mmol, 1.00 g | C(C=1C(C(=O)N)=CC=CC1)(=O)N.[K]
reactant | water | 75 ml | O | H2O
solvent | DMF | 27 ml | CN(C)C=O | C3H7NO
product | 2-(4-Chloro-but-2-enyl)-isoindole-1,3-dione | 961 mg, 76% yield | ClCC=CCN1C(C2=CC=CC=C2C1=O)=O | C12H10ClNO2
